US03933472
Preparation of 3'-chloro-4'-hydroxy-5'-nitroacetophenone
A 500-milliliter flask was charged with 300 milliliters of concentrated sulfuric acid, chilled to 5° to 10° C. and at this temperature 17.1 grams of 3'-chloro-4'-hydroxyacetophenone was slowly added. To the stirred clear solution 20 grams of potassium nitrate was slowly added during a period of about 30-40 minutes while the temperature was maintained between 5° and 10° C. After stirring for an additional 45-60 minutes, the solution was stirred into 1,000 grams of ice. The resulting pale yellow solid was filtered and washed with water.

reactant | 3'-chloro-4'-hydroxyacetophenone | 17.1 grams | ClC=1C=C(C=CC1O)C(C)=O | C8H7ClO2
reactant | potassium nitrate | 20 grams | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 300 milliliters | S(O)(O)(=O)=O | H2O4S
product | 3'-chloro-4'-hydroxy-5'-nitroacetophenone | ClC=1C=C(C=C(C1O)[N+](=O)[O-])C(C)=O | C8H6ClNO4
